US08871767B2
N-[5-(6-cyclopentylimidazo[2,1-f]pyridazin-2-yl)-2-(trifluoromethyl)phenyl]-dimethyl-propanamide
A small vial is charged with N-[5-(6-chloroimidazo[2,1-f]pyridazin-2-yl)-2-(trifluoromethyl)phenyl]-2,2-dimethyl-propanamide (0.032 g, 0.08 mol), cyclopropylzinc bromide (0.12 mL, 2 M in THF, 0.24 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (6 mg, 0.01 mol), and THF (0.32 mL). The reaction vessel is purged with N2 and heated to 150° C. in the microwave for 2 hr. Sat. aqueous NH4Cl is added to the mixture and it is extracted with EtOAc. The combined organic layers are dried over Na2SO4, filtered, concentrated, and purified by silica gel chromatography (hexanes to ethyl acetate) to give the title compound (3.5 mg, 11% yield). LCMS m/z=431.5 [M+H]+, tR=3.21 min. (compound same as Example 316)

reactant | N-[5-(6-chloroimidazo[2,1-f]pyridazin-2-yl)-2-(trifluoromethyl)phenyl]-2,2-dimethyl-propanamide | 0.08 mol, 0.032 g | ClC1=NN2C(C=C1)=NC(=C2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C(F)(F)F | C18H16ClF3N4O
reactant | cyclopropylzinc bromide | 0.24 mmol, 2 M, 0.12 mL | [Br-].C1(CC1)[Zn+]
reactant | THF | 0.32 mL | C1CCOC1 | C4H8O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.01 mol, 6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[5-(6-cyclopentylimidazo[2,1-f]pyridazin-2-yl)-2-(trifluoromethyl)phenyl]-dimethyl-propanamide | 3.5 mg, 11% yield | C1(CCCC1)C1=NN2C(C=C1)=NC(=C2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C(F)(F)F | C23H25F3N4O
